US08193236B2
3-(5-Dimethylaminomethyl-2-methyl-benzofuran-3-yl)-4-(7-methyl-1H-indol-3-yl)-pyrrole-2,5-dione
To a solution of 2-(5-dimethylaminomethyl-2-methyl-benzofuran-3-yl)-acetamide (111 mg, 0.406 mmol) and (7-methyl-1H-indol-3-yl)-oxo-acetic acid methyl ester (132 mg, 0.608 mmol) in anhydrous THF (4.0 mL) is added dropwise a 1 M solution of t-BuOK in THF (2.0 mL) at 0° C. under an argon atmposphere. The resulting deep red reaction mixture is stirred for 1 h at 0° C., diluted with EtOAc, washed with a saturated aqueous NH4Cl solution and washed with brine. The combined aqueous phases are extracted with EtOAc and the combined organic phases are dried over Na2SO4, filtered and concentrated at reduced pressure to afford an orange solid. Purification by flash column chromatography (silica gel, EtOAc/acetic acid/water 7:1:1) affords the title compound as an orange solid (122 mg, 0.295 mmol, 73%). 1H NMR (400 MHz, DMSO-d6, 298 K): δ=11.88 (bs, 1H), 11.07 (bs, 1H), 7.91 (s, 1H), 7.38 (d, J=8.3 Hz, 1H), 7.04 (d, J=8.3 Hz, 1H), 6.93 (s, 1H), 6.75 (d, J=6.8 Hz, 1H), 6.50 (t, J=7.5 Hz, 1H), 6.42 (d, J=7.8 Hz, 1H), 3.40-3.16 (m, 2H), 2.40 (s, 2H), 2.12 (s, 2H), 1.84 (s, 6H). MS (ES+): 414 (M(C25H23N3O3)+H)+.

reactant | 2-(5-dimethylaminomethyl-2-methyl-benzofuran-3-yl)-acetamide | 0.406 mmol, 111 mg | CN(C)CC=1C=CC2=C(C(=C(O2)C)CC(=O)N)C1 | C14H18N2O2
reactant | (7-methyl-1H-indol-3-yl)-oxo-acetic acid methyl ester | 0.608 mmol, 132 mg | COC(C(=O)C1=CNC2=C(C=CC=C12)C)=O | C12H11NO3
reactant | t-BuOK | CC(C)(C)[O-].[K+]
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(5-Dimethylaminomethyl-2-methyl-benzofuran-3-yl)-4-(7-methyl-1H-indol-3-yl)-pyrrole-2,5-dione | 0.295 mmol, 122 mg, 73% | CN(C)CC=1C=CC2=C(C(=C(O2)C)C=2C(NC(C2C2=CNC3=C(C=CC=C23)C)=O)=O)C1 | C25H23N3O3
